US07514422B2
N-Trifluoroacetyl-7-allyloxy-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-chloro-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (24 mg, 0.078 mmol) in dichloromethane (2 mL) was treated with allyl bromide (18 mg, 0.15 mmol), DBU (23 mg, 0.15 mmol) and stirred 2 hours at 20 C. The product mixture was diluted with EtOAc (10 mL), washed with 5% aqueous HCl (5 mL), brine (5 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 23 mg of a white solid. MS calculated for C16H17ClF3NO2+H: 348, observed: 348.

reactant | N-trifluoroacetyl-8-chloro-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.078 mmol, 24 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)Cl)(F)F | C13H13ClF3NO2
reactant | allyl bromide | 0.15 mmol, 18 mg | C(C=C)Br | C3H5Br
reactant | DBU | 0.15 mmol, 23 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-7-allyloxy-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 23 mg | FC(C(=O)N1CCC2=C(C(C1)(C)Cl)C=CC(=C2)OCC=C)(F)F | C16H17ClF3NO2
